US07674789B2
3-{8-(2,6-difluorophenyl)-2-[4-(4-methyl-1-piperazinyl)-1-piperidinyl]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (36 mg, 0.072 mmol) in THF (2 mL)/CHCl3 (2 mL) were added 1-methyl-4-(4-piperidinyl)piperazine (40 mg, 0.22 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.5 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM [90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (38 mg, 85%). LC-MS m/z 619 (M+H)+; 1H-NMR (MeOD) δ 1.27 (d, 6H), 1.33 (m, 2H), 1.83 (d, 2H), 2.28 (s, 3H), 2.30 (s, 3H), 2.65 (m, 11H), 4.11 (m, 2H), 4.23 (m, 1H), 4.45 (m, 2H), 7.16 (t, 2H), 7.46 (d, 1H), 7.50 (m, 1H), 7.68 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.072 mmol, 36 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 1-methyl-4-(4-piperidinyl)piperazine | 0.22 mmol, 40 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | N,N-diisopropylethylamine | 0.5 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-{8-(2,6-difluorophenyl)-2-[4-(4-methyl-1-piperazinyl)-1-piperidinyl]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide | 38 mg, 85% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)N2CCC(CC2)N2CCN(CC2)C)=O | C33H40F2N8O2
